US07820825B2
A solution of 4-(2-phenyl-benzoimidazol-1-ylmethyl)-benzoic acid (1 g, 3 mmol) in DCM is treated with 2 drops of DMF followed by oxalylchloride (3 mL, 6 mmol, 2M solution in DCM), stirred at room temperature for 2 hours and concentrated in vacuo. The resultant residue is dissolved in DCM, treated with 3-pyrrolidinol (0.3 mL, 3.6 mmol), stirred at room temperature for 8 hours then concentrated to give 1-{4-[(2-phenyl-1H-benzimidazol-1-yl)methyl]benzoyl}pyrrolidin-3-ol identified by HPLC and MS [398.4 m/e (M+H)].

reactant | 4-(2-phenyl-benzoimidazol-1-ylmethyl)-benzoic acid | 3 mmol, 1 g | C1(=CC=CC=C1)C1=NC2=C(N1CC1=CC=C(C(=O)O)C=C1)C=CC=C2 | C21H16N2O2
reactant | oxalylchloride | 6 mmol, 2M, 3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-pyrrolidinol | 3.6 mmol, 0.3 mL | N1CC(CC1)O | C4H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 1-{4-[(2-phenyl-1H-benzimidazol-1-yl)methyl]benzoyl}pyrrolidin-3-ol | C1(=CC=CC=C1)C1=NC2=C(N1CC1=CC=C(C(=O)N3CC(CC3)O)C=C1)C=CC=C2 | C25H23N3O2
